US07902367B2
1-(tert-Butoxycarbonyl)perhydroazepin-3-yl methanol
1-Benzyl perhydroazepin-3-yl methanol (1.30 g, 5.93 mmol) was dissolved in a 4.4% formic acid/methanol solution (30 mL). To this solution, 10% palladium on activated carbon (1.30 g) was added and the mixture was stirred at room temperature for 2 hours. Subsequently, water was added and the mixture was filtered through Celite. The filtrate was concentrated. The resulting residue was dissolved in acetonitrile (15 mL). While the solution was ice-chilled and stirred, triethylamine (1.81 mL, 13.0 mmol) and t-butyl dicarbonate (1.42 g, 6.52 mmol) were added. The reaction mixture was then stirred at room temperature for 4 hours. Subsequently, the mixture was concentrated and ethyl acetate was added. The mixture was sequentially washed with a 5% aqueous citric acid solution, a saturated aqueous sodium bicarbonate solution and brine, followed by drying over magnesium sulfate. Evaporation of the solvent gave 1.13 g (83%) of the desired compound as a colorless oil.

reactant | 1-Benzyl perhydroazepin-3-yl methanol | 5.93 mmol, 1.30 g | C(C1=CC=CC=C1)N1CC(CCCC1)CO | C14H21NO
reactant | water | O | H2O
reactant | triethylamine | 13.0 mmol, 1.81 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyl dicarbonate | 6.52 mmol, 1.42 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | formic acid methanol | 30 mL | C(=O)O.CO
catalyst | palladium on activated carbon | 1.30 g | [Pd] | Pd
product | 1-(tert-Butoxycarbonyl)perhydroazepin-3-yl methanol | 1.13 g, 83% | C(C)(C)(C)OC(=O)N1CC(CCCC1)CO | C12H23NO3
